US08071773B2
k) Methanesulphonic acid 3-(2-methanesulphonyloxy-ethyl)-2-oxo-piperidin-3-ylmethyl ester
A solution of 1 mmol of 3-(2-hydroxy-ethyl)-3-hydroxymethyl-piperidin-2-one in 3 ml of dichloromethane is admixed at 0° C. with 3 mmol of triethylamine, followed by 2.2 mmol of methanesulphonyl chloride. The reaction mixture is stirred at 0° C. for an hour and then at room temperature for an hour. The reaction mixture is poured into saturated aqueous sodium hydrogen carbonate solution and extracted with dichloromethane (2×). The combined organic extracts are washed with brine, dried with sodium sulphate and evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60 F) on the basis of the Rf value.

reactant | 3-(2-hydroxy-ethyl)-3-hydroxymethyl-piperidin-2-one | 1 mmol | OCCC1(C(NCCC1)=O)CO | C8H15NO3
reactant | triethylamine | 3 mmol | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 2.2 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | Methanesulphonic acid 3-(2-methanesulphonyloxy-ethyl)-2-oxo-piperidin-3-ylmethyl ester | CS(=O)(=O)OCCC1(C(NCCC1)=O)COS(=O)(=O)C | C10H19NO7S2
